US08058299B2
2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide, hydrochloride (53 mg, 0.117 mmol), (1H-tetrazol-5-yl)-acetic acid (15 mg, 0.117 mmol), and triethylamine (49 uL, 0.351 mmol) were dissolved in 1.5 mL of DMF and chilled in an ice bath. To this solution was added BOP (52 mg, 0.122 mmol) in one portion. The mixture was stirred at room temperature for 30 minutes and then diluted with 30 ml CH2Cl2. The organic phase was washed with 1N citric acid (1×8 mL), water (3×8 mL) and saturated sodium chloride (10 mL). The organic layer was dried over MgSO4, filtered and evaporated to dryness under vacuum. The residue was crystallized from acetonitrile to yield 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {4-[4-(2-1H-tetrazol-5-yl-acetyl)-piperazin-1-yl]-phenyl}-amide as light yellow crystals (26 mg, 42%). ES-MS calcd for C24H21F3N8O3 (m/e) 526.48, obsd 527 (M+H).

reactant | 2-Phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid (4-piperazin-1-yl-phenyl)-amide, hydrochloride | 0.117 mmol, 53 mg | Cl.N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1
reactant | (1H-tetrazol-5-yl)-acetic acid | 0.117 mmol, 15 mg | N1N=NN=C1CC(=O)O | C3H4N4O2
reactant | triethylamine | 0.351 mmol, 49 uL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.122 mmol, 52 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {4-[4-(2-1H-tetrazol-5-yl-acetyl)-piperazin-1-yl]-phenyl}-amide | 26 mg, 42% | N1N=NN=C1CC(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C24H21F3N8O3
